US07799787B2
N-(3-Methylbutyl)-6-{4-[3-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide
The title compound was prepared in the same manner as described for Example 16 from 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide and 4-[3-(trifluoromethyl)phenoxy]piperidine. MS (+ESI) m/z 437 (MH+).

reactant | 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide | ClC1=CC=C(N=N1)C(=O)NCCC(C)C | C10H14ClN3O
reactant | 4-[3-(trifluoromethyl)phenoxy]piperidine | FC(C=1C=C(OC2CCNCC2)C=CC1)(F)F | C12H14F3NO
product | N-(3-Methylbutyl)-6-{4-[3-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)OC1=CC(=CC=C1)C(F)(F)F)C | C22H27F3N4O2
